US05496499
A solution of 10.6 g of 1-(p-n-propylphenyl)-2-(4'-fluorobiphenyl-4-yl)ethene [obtained by Heck coupling of 4-propylstyrene with 4-bromo-4'-n-fluorobiphenyl] in 200 ml of tetrahydrofuran is hydrogenated in the presence of Pd/C until the take-up H of is complete. Customary work-up gives 1-(p-propylphenyl)-2-(4'-fluorobiphenyl-4-yl)ethane, mp. 97°.

reactant | 1-(p-n-propylphenyl)-2-(4'-fluorobiphenyl-4-yl)ethene | 10.6 g | C(CC)C1=CC=C(C=C1)C=CC1=CC=C(C=C1)C1=CC=C(C=C1)F | C23H21F
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | 1-(p-propylphenyl)-2-(4'-fluorobiphenyl-4-yl)ethane | C(CC)C1=CC=C(C=C1)CCC1=CC=C(C=C1)C1=CC=C(C=C1)F | C23H23F
